US06756378B2
To a stirred solution of methyl 4-(3-tert-butoxycarbonyl-4-thiazolidinyl)methoxybenzoate (440 mg, 1.25 mmol) in CH2Cl2 (6 ml) was added TFA (3 ml) at 0° C. The reaction mixture was stirred at room temperature for 0.5 hr. The mixture was concentrated in vacuo. Sat. NaHCO3 was added to the residue, and extracted with CH2Cl2. The extract was washed with brine, dried over Na2SO4, and concentrated in vacuo. The crude product was used to the subsequent reaction without further purification. To a stirred solution of the crude product (0.6 mmol), 3-methoxy-4-[N′-(2-methyl phenyl)uredio]phenylacetic acid (188 mg, 0.6 mmol), HOBt (81 mg, 0.6 mmol), and triethylamine (280 ml, 2.0 mmol) in THF (5 ml) and MeCN (5 ml) was added EDC.HCl (173 mg, 0.9 mmol) at 0° C. The reaction mixture was stirred at room temperature for 16 hr, and concentrated in vacuo Water was added to the residue, and extracted with EtOAc. The extract was washed with sat. NaHCO3, 2-M citric acid, and sat. NaHCO3, then dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel with n-hexane-EtOAc (1:3, v/v) as eluent to give methyl 4-[3-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenyl]acetyl-4-thiazolidinyl]methoxybenzoate (340 mg, quant) as an amorphous solid. 1H-NMR (CDCl3) δ2.31 (s, 3H), 3.15-3.16 (m, 2H), 3.67-3.69 (m, 5H), 3.88 (s, 3H), 4.09-4.14 (m, 2H), 4.22-4.90 (m, 3H), 6.30 (m, 1H), 6.74-6.96 (m, 4H), 7.11-7.25 (m, 4H), 7.49-7.51 (m, 1H), 7.95-8.12 (m, 3H).

reactant | methyl 4-(3-tert-butoxycarbonyl-4-thiazolidinyl)methoxybenzoate | 1.25 mmol, 440 mg | C(C)(C)(C)OC(=O)N1CSCC1COC1=CC=C(C(=O)OC)C=C1 | C17H23NO5S
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HOBt | 0.6 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2.0 mmol, 280 ml | C(C)N(CC)CC | C6H15N
reactant | EDC.HCl | 0.9 mmol, 173 mg | CCN=C=NCCCN(C)C.Cl
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
solvent | MeCN | 5 ml | CC#N | C2H3N
product | methyl 4-[3-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenyl]acetyl-4-thiazolidinyl]methoxybenzoate | 340 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1CSCC1COC1=CC=C(C(=O)OC)C=C1 | C29H31N3O6S
